US03931407
1-(3-Carboxy-4-hydroxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole ##SPC31##
A solution of 49.7 g. (0.23 mole) of 2-phenacylcyclohexanone, 35.2 g. (0.23 mole) of 5-aminosalicylic acid, and 135 ml. of glacial acetic acid was heated under reflux under nitrogen for 31/2 hours. A solid separated and was collected, washed with water, and recrystallized from acetic acid to provide 46.0 g. (60%) of pale yellow crystals, m.p. 209°-211°.

reactant | 2-phenacylcyclohexanone | 0.23 mole | C(C(=O)C1=CC=CC=C1)C1C(CCCC1)=O | C14H16O2
reactant | 5-aminosalicylic acid | 0.23 mole | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(3-Carboxy-4-hydroxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2CCCCC12)C1=CC=CC=C1 | C21H19NO3
